US06727264B1
N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-4-(3,4-DIFLUOROPHENYL)-2-METHYL-6-OXO-1,4,5,6-TETRAHYDRO-3-PYRIDINECARBOXAMIDE:
Prepared by Procedure AC and Scheme AM using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide and 4-(3,4-difluorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylic acid: ESMS m/e: 525.2 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
reactant | 4-(3,4-difluorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylic acid | FC=1C=C(C=CC1F)C1C(=C(NC(C1)=O)C)C(=O)O | C13H11F2NO3
product | N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-4-(3,4-DIFLUOROPHENYL)-2-METHYL-6-OXO-1,4,5,6-TETRAHYDRO-3-PYRIDINECARBOXAMIDE | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1=C(NC(CC1C1=CC(=C(C=C1)F)F)=O)C | C29H34F2N4O3
